US07935688B2
(1) Synthesis of (2-bromo-pyridin-5-yl)-acetic Acid Ethyl Ester
Lithium bromide (3.2 g, 37 mmol) and acetyl bromide (1.3 mL, 17 mmol) were added to a solution of (2-chloro-pyridin-5-yl)acetic acid ethyl ester (1.08 g, 5.42 mmol) in acetonitrile (7.2 mL), and the mixture was heated under reflux at an external temperature of 86 to 94° C. for 31 hours. The reaction mixture was dissolved in water. The solution was neutralized with a sodium hydroxide aqueous solution, followed by extraction with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate=4/1) to give the title compound (655 mg, 53%).

reactant | Lithium bromide | 37 mmol, 3.2 g | [Br-].[Li+]
reactant | acetyl bromide | 17 mmol, 1.3 mL | C(C)(=O)Br | C2H3BrO
reactant | (2-chloro-pyridin-5-yl)acetic acid ethyl ester | 5.42 mmol, 1.08 g | C(C)OC(CC=1C=CC(=NC1)Cl)=O | C9H10ClNO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetonitrile | 7.2 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | (2-bromo-pyridin-5-yl)-acetic Acid Ethyl Ester | 655 mg, 53% | C(C)OC(CC=1C=CC(=NC1)Br)=O | C9H10BrNO2
